US08633175B2
To a solution of 3-chloro-4-hydroxybenzoic acid (4.0 g, 0.022 mol) and pyridine (0.8 mL) in acetonitrile (50 mL) was added di-tert-butyl dicarbonate (9.6 g, 0.044 mol) in one portion followed by ammonium bicarbonate (3.5 g, 0.044 mol) in one portion and the mixture was stirred at ambient temperature for 18 hr. The reaction mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and water. The ethyl acetate phase was washed with 5% aqueous sodium bicarbonate, 0.1N HCl and brine. The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo to give 4-(aminocarbonyl)-2-chlorophenyl 1,1-dimethylethyl carbonate as a viscous yellow oil, used without further purification. LC/MS (method A) tR 2.25 min; m/z (M+H) 272.

reactant | 3-chloro-4-hydroxybenzoic acid | 0.022 mol, 4.0 g | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | pyridine | 0.8 mL | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | 0.044 mol, 9.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium bicarbonate | 0.044 mol, 3.5 g | C([O-])(O)=O.[NH4+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(aminocarbonyl)-2-chlorophenyl 1,1-dimethylethyl carbonate | C(OC1=C(C=C(C=C1)C(=O)N)Cl)(OC(C)(C)C)=O | C12H14ClNO4
